Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
EBUS ___

 
History of Present Illness:
Ms. ___ is a ___ yo AAF with PMH Sickle Cell Disease 
HB-C, depression, htn presented to ___ on ___ with 
2 months worsening cough, dyspnea that worsened to shortness of 
air at rest with findings concerning for BUL pneumonia. 

Mr. ___ has not been hospitalized or received 
antibiotics in the last several years. She denies chest pain, 
only discomfort with cough. Lives at home with her 2 sons and 
denies exposure to sick contacts or risk factors for TB. No 
recent travel outside of ___, tick bites, mosquito bites. Denies 
night sweats, fevers, weight loss, or hemoptysis/sputum 
production. + dry cough that has been worsening in the last few 
years. CXR in ED positive for RUL pneumonia bilaterally. 
Interestingly, pt has a h/o abnormal CT chest in ___ that had 
bilateral upper lobe "mass like" lesions and extensive LAD that 
pt never followed up with pulmonary or had repeat imaging. This 
was done due to fatigue and dyspnea as well. 

Denies joint pains, rashes, sores in mouth or new lesions.

H/o sick cell disease trait HBC. Has never had a crisis or 
issues with sickle cell disease. Sister had full SS and is 
deceased. H/H has been stable for several years with qyearly 
checks ___ with 12.1/37.6 --> dropped to 7.8/22.8 ___ and 
now 7.2/21.9 in emergency department. Denies hematochezia, 
melena, hemoptysis, dysuria or any source of bleeding. Has 
isolated H/H drop. No LFTs drawn in ED. Denies abdominal pain.  
 

Review of systems:  
(+) fatigue, dry cough, dyspnea on exertion, orthopnea
(-) Denies ___ edema, rash, joint pains, dysuria, hematuria, 
hematochezia, melena, abdominal pain, chest pain, confusion, 
night sweats, weight loss abdominal pain
10 pt ROS otherwise neg

 
Past Medical History:
SS - HB-C trait
Depression d/o
htn
domestic abuse survivor

PAST SURGICAL HISTORY:  
2x c/s

 
Social History:
___
Family History:
mGM with breast CA, T2DM in family, no h/o autoimmune disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T 97.9 BP 144 / 87 HR 83 RR 18 O2 sat 95 RA  
Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR, S1-S2,, loud holosystolic ___ murmur heard best at ___ 
with radiation to apex no edema, 2+ ___ BLE, did not 
appreciate JVD
Lungs: mild ronchi at upper lobes did not appreciate at bases
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM
Neuro: Moving all extremities, no focal deficits, A+Ox3
Skin: No rash or ecchymosis
Psych: Congruent affect, good judgment

DISCHARGE PHYSICAL EXAM:
Vitals: 97.9PO  119 / 83 ___
Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR, S1-S2,, loud holosystolic ___ murmur heard best at ___
with radiation to apex no edema, 2+ ___ BLE, did not 
appreciate
JVD
Lungs: mild ronchi at upper lobes did not appreciate at bases
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM
Neuro: Moving all extremities, no focal deficits, A+Ox3
Skin: No rash or ecchymosis
Psych: Congruent affect, good judgment 
 
Pertinent Results:
ADMISSION LABS
--------------
___
Na 141, Cl 103, K 3.1, HCO3 24, BUN 10, Cr 0.9, Gluc 87
Trop <0.01
Lactate 2.9
WBC 4.3, Hgb 7.2, Hct 21.9, Plt 242
BNP 910

Atrius ___ H/H 7.8/22.8
___ H/H 12.1/37.6

IMAGING
-------
CT chest ___:
IMPRESSION: 
1. Given the reported chronicity of at least ___ years, 
mediastinal and axillary lymphadenopathy and upper lobe 
predominant fibrosis are most likely related to sarcoidosis with 
resulting pulmonary hypertension as evidenced by marked 
enlargement of the pulmonary arteries and right ventricle.  The 
interlobular septal thickening, scattered ground-glass 
attenuation, and small pleural effusions probably reflect heart 
failure related to pulmonary hypertension.  For confirmation 
that the adenopathy is related to sarcoidosis, 
recommend ACE serology and/or axillary lymph node biopsy. 
2. A 2.4 x 1.5 cm heterogeneously enhancing nodule abutting the 
peritoneum and anterior wall of the stomach will be further 
described on the dedicated abdominal CT, though differential 
considerations include an enlarged gastroepiploic lymph node or 
exophytic lesion such as a gist. 
  
RECOMMENDATION(S):  Given the reported chronicity of at least ___ 
years, mediastinal and axillary lymphadenopathy and upper lobe 
predominant fibrosis are most likely related to sarcoidosis with 
resulting pulmonary hypertension as evidenced by marked 
enlargement of the pulmonary arteries and right ventricle.  The 
interlobular septal thickening, scattered ground-glass 
attenuation, and small pleural effusions probably reflect heart 
failure related to pulmonary hypertension.  For confirmation 
that the adenopathy is related to sarcoidosis, recommend ACE 
serology and/or axillary lymph node biopsy. 

CT A/P ___:
1. Mesenteric, retroperitoneal, pelvic, and inguinal 
lymphadenopathy measuring up to 1.7 cm at the level of the iliac 
bifurcation.  This is compatible with suspected sarcoidosis as 
described on the recent chest CT.  if biopsy is desired, the 
axillary nodes are the best target.  Please see the separate 
chest CT dictation regarding intrathoracic findings. 
2. Exophytic nodular lesion along the anterior gastric antrum 
that measures 2.1 cm.  This could represent a gastroepiploic 
lymph node versus an exophytic gastric lesion such as GIST, or 
exophytic hepatic lesion such as a hemangioma. If sampling is 
desired, endoscopic approach could be considered.  Attention on 
follow-up imaging is recommended. 
3. Small hiatal hernia. 

___ CT chest with contrast
1.  MEDIASTINAL AND BILATERAL HILAR
     ADENOPATHY. LYMPH NODES IN EACH
     AXILLA ARE SUBCENTIMETER AND NOT
     SIGNIFICANT BY SIZE. 

 2.  MULTIFOCAL MASS-LIKE ALVEOLAR
     DENSITIES IN THE LUNGS.  THE MOST
     CONFLUENT DENSITY IS PLEURAL BASED,
     IN THE LATERAL ASPECT OF THE RIGHT
     UPPER LOBE.  POSSIBLE ETIOLOGIES 
     DEPEND ON THE CHRONICITY OF THE 
     FINDINGS.  IF ACUTE, BILATERAL PNEUMONIA
     IS A POSSIBILITY.  IF CHRONIC, POSSIBLE
     ETIOLOGIES INCLUDE LYMPHOMA,
     SARCOIDOSIS, TB, BRONCHOALVEOLAR
     CARCINOMA OR METASTATIC DISEASE. 
 
STUDIES:  
___ CXR reviewed by  me as well
 Multifocal parenchymal opacities in the lungs, right greater 
than left.  Findings may represent a multifocal potentially 
atypical infection versus chronic underlying interstitial 
abnormality.  Followup will be necessary. 

___
QTc 502, qwaves I,AVL nonsig q waves, no ST/TW changes, NSR

 
Brief Hospital Course:
___ year old female with history of sickle cell disease HB-C, 
depression, hypertension presented to ___ on ___ 
with two months of worsening cough, dyspnea, as well as 
lymphadenopathy and pulmonary infiltrates that worsened to 
shortness of breath at rest.

# Dyspnea
# Mediastinal/hilar lymphadenopathy
# Likely pneumonia: very broad differentia for LAD.  Patient 
presented with only dyspnea with dry cough and bilateral upper 
lobe findings. Symptoms have been present for two months with 
fatigue, orthopnea but no other signs of heart failure on exam 
(BNP 900s). Has a CT from ___ in ___ records that showed 
similar upper lobe lesions with "mass like" details and 
extensive hilar/mediastinal LAD that makes sarcoidosis or 
lymphoma in the differential.  Denies joint pains or rash/skin 
lesions. No h/o autoimmune disease.  Patient has new 
infiltrates, anemia with concern for hemolysis (pending labs) 
and sickle cell trait so acute chest was a possibility but seems 
unlikely in this disorder without ever having a sickling crisis 
prior and no chest pain.  Patient has not had any recent risk 
factors for TB - was in a shelter ___ years ago and does not 
have night sweats, weight loss, hemoptysis or any other 
concerning finding for TB, but thought to be less likely, 
Quantiferon gold pending.  CT chest findings, similar to ___ 
results, most consistent with sarcoidosis.  She was initially 
started on empiric antibiotics, stopped when determined that 
infection less likely.  Interventional Pulmonary was consulted, 
and EBUS and biopsy was performed on ___, pathology pending on 
discharge.  Pulmonary was consulted and recommended further 
work-up for possible sarcoidosis, arranging outpatient f/u.  Pt 
was sat'ing high 90's on RA on discharge.

#  Anemia - FOBT negative in ED and no melena/hematochezia.  
Baseline H/H ___ in ___.  Hemoglobin dropping, requiring 1 
unit PRBC transfusion on admission.  No evidence of hemolysis 
suggesting sickling crisis.  Mycoplasma PCR sent and pending.  
Occult blood testing negative.

# Holosystolic murmur
# Pulmonary hypertension: denied murmur in past, ___ likely due 
to anemia with radiation to apex.  TTE with poor image quality, 
but evidence of pulmonary hypertension on CT chest and elevated 
PASP on TTE.  Will need Pulmonary f/u on discharge.

# Essential Hypertension - controlled.  Lisinopril was switched 
out for losartan due to chronic cough, and HCTZ was continued.

Greater than 30 minutes spent on discharge counseling and 
coordination of care

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. TraZODone 150 mg PO QHS:PRN insomnia 
4. Sertraline 200 mg PO DAILY 

 
Discharge Medications:
1.  Losartan Potassium 50 mg PO DAILY 
RX *losartan [Cozaar] 50 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Sertraline 200 mg PO DAILY  
4.  TraZODone 150 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mediastinal Lymphadenopathy
Cough

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you during your recent admission 
to ___.  You came for further evaluation of cough and 
shortness of breath.  Further evaluation showed that you had 
several enlarged lymph nodes that have been persistent for a 
while.  You had a biopsy of these lymph nodes and the pathology 
is still pending.  You will get called with these results.

It was a pleasure taking care of you at ___

It is important that you continue to take your medications as 
prescribed and follow up with your appointments as listed below.

Good luck!
 
Followup Instructions:
___